US08859774B2
To a solution of (R)-methyl 1-(4-fluorophenyl)-6-((3,4,5-trifluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate (1.0 g, 1.918 mmol) in anhydrous dichloromethane (30 mL) at −78° C. under a nitrogen atmosphere was added diisobutyl aluminium hydride (DIBAL-H) (1 M in Heptane) (7.67 ml, 7.67 mmol) dropwise over 10 minutes. The reaction mixture was stirred at −78° C. for 1 hour. Water (10 mL) was then added and the reaction mixture stirred at −78° C. for 5 minutes, then warmed to room temperature over 15 minutes. The solution was partitioned between ethyl acetate (150 mL) and Rochelle's salt (150 mL). The organic layer was washed with Rochelle's salt (150 mL), brine (100 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to give an off white solid. The crude product was purified by chromatography on silica gel (gradient: 0-90% ethyl acetate in isohexane) to afford (R)-(1-(4-fluorophenyl)-6-((3,4,5-trifluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)methanol (680 mg) as a white solid. LCMS (Method F, ES-API): RT 2.58 min, m+H=494.2.

reactant | (R)-methyl 1-(4-fluorophenyl)-6-((3,4,5-trifluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate | 1.918 mmol, 1.0 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)S(=O)(=O)C2=CC(=C(C(=C2)F)F)F | C24H19F4N3O4S
reactant | diisobutyl aluminium hydride | 7.67 mmol, 1 M, 7.67 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | 10 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (R)-(1-(4-fluorophenyl)-6-((3,4,5-trifluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)methanol | 680 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)CO)S(=O)(=O)C2=CC(=C(C(=C2)F)F)F | C23H19F4N3O3S
